US08912186B2
4-Chloro-1,2-phenylenediamine (143 mg) and 3-(2-naphthyl)glutaric anhydride (240 mg) were dissolved in dichloromethane (3 ml) with heating. The dark solution was stirred at rt for 1 h. The precipitate formed was collected by suction filtration, washed with dichloromethane, and dried in vacuo to give a mixture of regioisomeric amides (0.32 g) as brownish solid. This solid was dissolved in 4M HCl in 1,4-dioxane (4 ml) and the dark solution was heated to reflux for 1 h. After removal of the solvent in vacuo the residue was taken up in acetic acid (5 ml), treated with charcoal, and filtered. From the filtrate the solvent was removed and the residue triturated with acetone to give 4-(5-chloro-2-benzimidazolyl)-3-(2-naphthyl)butanoic acid HCl (138 mg) as colourless solid.

reactant | 4-Chloro-1,2-phenylenediamine | 143 mg | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-(2-naphthyl)glutaric anhydride | 240 mg | C1=C(C=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 4-(5-chloro-2-benzimidazolyl)-3-(2-naphthyl)butanoic acid HCl | 138 mg | Cl.ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C21H17ClN2O2.ClH/c22-17-7-8-18-19(12-17)24-20(23-18)10-16(11-21(25)26)15-6-5-13-3-1-2-4-14(13)9-15;/h1-9,12,16H,10-11H2,(H,23,24)(H,25,26);1H
